US07365225B2
2-hydroxy-5-({[(4-{[(4-pentylbenzyl)amino]carbonyl}-1,3-thiazol-2-yl)methyl][(2E)-3-phenylprop-2-enoyl]amino}methyl)benzoic acid
The title compound was prepared following the procedure A using 4-pentylbenzylamine, 2-(chloromethyl)-1,3-thiazole-4-carbonyl chloride, (2E)-3-phenylacryloyl chloride and 6-(aminomethyl)-2,2-dimethyl-4H-1,3-benzodioxin-4-one acetate. M+(ESI): 598.4

reactant | 4-pentylbenzylamine | C(CCCC)C1=CC=C(CN)C=C1 | C12H19N
reactant | 2-(chloromethyl)-1,3-thiazole-4-carbonyl chloride | ClCC=1SC=C(N1)C(=O)Cl | C5H3Cl2NOS
reactant | (2E)-3-phenylacryloyl chloride | C1(=CC=CC=C1)/C=C/C(=O)Cl | C9H7ClO
reactant | 6-(aminomethyl)-2,2-dimethyl-4H-1,3-benzodioxin-4-one acetate | C(C)(=O)O.NCC1=CC2=C(OC(OC2=O)(C)C)C=C1
product | 2-hydroxy-5-({[(4-{[(4-pentylbenzyl)amino]carbonyl}-1,3-thiazol-2-yl)methyl][(2E)-3-phenylprop-2-enoyl]amino}methyl)benzoic acid | OC1=C(C(=O)O)C=C(C=C1)CN(C(\C=C\C1=CC=CC=C1)=O)CC=1SC=C(N1)C(=O)NCC1=CC=C(C=C1)CCCCC | C34H35N3O5S
